US07282588B2
Preparation of N-ethyl-N′-{4-[1-ethyl-4-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}urea
Following the procedure described in Example 1 using 4-[1-ethyl-4-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline and ethyl isocyanate afforded the title compound. ESMS [M+H]+: 393.4

reactant | 4-[1-ethyl-4-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1F)NC=C2)C2=CC=C(N)C=C2 | C18H16FN5
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
product | N-ethyl-N′-{4-[1-ethyl-4-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}urea | C(C)NC(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1F)NC=C2)CC | C21H21FN6O
